US07968727B2
4-(2-formylphenyl)toluene
To a solution of 10 g (0.051 mol) of 4-(2-cyanophenyl)toluene in 300 ml of formic acid 30 g of Raney Ni is added. Reaction mixture is stirred at the 85° C. overnight and filtered. Filter cake is washed with 50 ml of dichloromethane. 150 ml of water are added to the filtrate, mixture is stirred for 10 minutes and layers separated. Organic layer is dried over MgSO4 and evaporated under reduced pressure giving 7.13 g of oily residue, which is purified on chromatographic column (silica gel, petroleum ether:ether 4:1) to produce 5.23 g of pure product in a form of a brown oil.

reactant | 4-(2-cyanophenyl)toluene | 0.051 mol, 10 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C14H11N
reactant | formic acid | 300 ml, 30 g | C(=O)O | CH2O2
catalyst | Ni | [Ni] | Ni
product | 4-(2-formylphenyl)toluene | 7.13 g | C(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C14H12O
